US04280835
A solution of 4-(2-naphthyloxy)aniline (4 g) in toluene (100 ml) was dropwise added to a solution of phosgene (3.5 g) in toluene (50 ml), and the resulting mixture was refluxed for 1 hour. After removal of the solvent from the reaction mixture by distillation under reduced pressure, the residue was distilled in vacuo to give 4-(2-naphthyloxy)phenyl isocyanate (4.1 g) as a fraction boiling at 137° to 149° C./0.8 mmHg. M.P., 75°-77° C.

reactant | 4-(2-naphthyloxy)aniline | 4 g | C1=C(C=CC2=CC=CC=C12)OC1=CC=C(N)C=C1 | C16H13NO
reactant | phosgene | 3.5 g | C(=O)(Cl)Cl | CCl2O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(2-naphthyloxy)phenyl isocyanate | 4.1 g | C1=C(C=CC2=CC=CC=C12)OC1=CC=C(C=C1)N=C=O | C17H11NO2
